US07402595B2
6-chloro-4-[3-(1-hydroxyethyl)phenyl]-2-(4-methanesulfonylbenzyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution (2.6 ml) of 6-chloro-4-(3-formylphenyl)-2-(4-methanesulfonylbenzyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (130 mg) in THF was added a solution (3 mol/l, 0.10 ml) of methyl magnesium bromide in THF at room temperature with stirring, and the mixture was stirred at room temperature for 1 hr. After the completion of the reaction, 5% aqueous potassium hydrogensulfate solution was added to the mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by medium pressure preparative LC (hexane/ethyl acetate=1/2-ethyl acetate) to give the title compound (69 mg) as colorless crystals.

reactant | 6-chloro-4-(3-formylphenyl)-2-(4-methanesulfonylbenzyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 2.6 ml, 130 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)C=O)Cl)=O)CC1=CC=C(C=C1)S(=O)(=O)C | C26H20ClNO6S
reactant | methyl magnesium bromide | 3 mol/l, 0.10 ml | C[Mg]Br
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 6-chloro-4-[3-(1-hydroxyethyl)phenyl]-2-(4-methanesulfonylbenzyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 69 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)C(C)O)Cl)=O)CC1=CC=C(C=C1)S(=O)(=O)C | C27H24ClNO6S
